US09260408B2
At 0° C., 6-(5-hydroxymethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one (170 mg, 0.63 mmol) in DCM (15 mL) was treated with thionyl chloride (0.32 mL, 4.0 mmol). After the addition, the reaction mixture was allowed to stir at 2-5° C. for 2 hours before it was poured into satd. aq. NaHCO3 solution (50 mL). After extraction with EtOAc, the organic layer was washed with brine, dried over anhy. Na2SO4, filtered and concentrated in vacuo to give 6-(5-chloromethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one (156 mg, 86.3%) as yellow oil. MS: 288.1 (M+H+).

reactant | 6-(5-hydroxymethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one | 0.63 mmol, 170 mg | OCC=1C=C(C=NC1)C=1N=C2CCC(N(C2=CC1)C)=O | C15H15N3O2
reactant | thionyl chloride | 4.0 mmol, 0.32 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 6-(5-chloromethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one | 156 mg, 86.3% | ClCC=1C=C(C=NC1)C=1N=C2CCC(N(C2=CC1)C)=O | C15H14ClN3O
